US08017792B2
Synthesis of 1-bromo-4-chloro-3-(4-ethoxybenzyl)-6-methoxybenzene
Then, Et3SiH (1.62 mL, 10.1 mmol) and BF3.Et2O (0.772 mL, 6.09 mmol) were added sequentially to a chloroform-acetonitrile (1:1; 16 mL) solution of (5-bromo-2-chloro-6-methoxyphenyl)(4-ethoxyphenyl)methanone (1.50 g, 4.06 mmol) at −5° C. The reaction mixture was warmed to room temperature and stirred for 16 hours. After the reaction mixture was added with a saturated sodium carbonate aqueous solution and extracted with chloroform, the organic layer was washed with brine and dried with anhydrous magnesium sulfate. After the desiccant was filtered off, the residue obtained by evaporating the solvent under reduced pressure was purified by silica gel column chromatography (hexane:ethyl acetate=20:1) to obtain a colorless oily title compound (1.48 g, 99%).

reactant | Et3SiH | 10.1 mmol, 1.62 mL | [SiH](CC)(CC)CC | C6H16Si
reactant | BF3.Et2O | 6.09 mmol, 0.772 mL | B(F)(F)F.CCOCC
reactant | (5-bromo-2-chloro-6-methoxyphenyl)(4-ethoxyphenyl)methanone | 4.06 mmol, 1.50 g | BrC=1C=CC(=C(C1OC)C(=O)C1=CC=C(C=C1)OCC)Cl | C16H14BrClO3
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | chloroform acetonitrile | 16 mL | C(Cl)(Cl)Cl.C(C)#N
product | 1-bromo-4-chloro-3-(4-ethoxybenzyl)-6-methoxybenzene | 1.48 g, 99% | BrC1=CC(=C(C=C1OC)Cl)CC1=CC=C(C=C1)OCC | C16H16BrClO2
